US08067504B2
To a stirred 0° C. solution of 2-methylaziridine (5.1 g, about 80 mmol, 90% pure, available from Aldrich) and NaOH (3.6 g, 90 mmol) in a mixture of 50 mL of water and 25 mL of methylene chloride was added dropwise a solution of acrylic acid-2-chlorocarbonylethyl ester (11.6 g, 59 mmol) in 25 mL of methylene chloride. When the addition was complete, the reaction flask was removed from the ice bath and the reaction mixture was allowed to warm to room temperature and was stirred overnight. The phases were then separated and the methylene chloride phase was washed once with 25 mL of water, dried over K2CO3, filtered, and solvent removed at reduced pressure to leave 8.1 g of acrylic acid-3-(2-methylaziridin-1yl)-3-oxopropyl ester as a colorless oil. NMR and IR spectral analyses confirmed the structure of the product.

reactant | 2-methylaziridine | about 80 mmol, 5.1 g | CC1NC1 | C3H7N
reactant | NaOH | 90 mmol, 3.6 g | [OH-].[Na+]
reactant | acrylic acid-2-chlorocarbonylethyl ester | 59 mmol, 11.6 g | ClC(=O)CCOC(C=C)=O | C6H7ClO3
solvent | water | 50 mL | O | H2O
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | acrylic acid-3-(2-methylaziridin-1yl)-3-oxopropyl ester | 8.1 g | CC1N(C1)C(CCOC(C=C)=O)=O | C9H13NO3
